### PR TITLE
Replace classical reals quotient axioms by functional extensionality

### PR DESCRIPTION
**Pull request by VincentSe**
**Kind:** feature

Replace classical reals quotient axioms by the axiom of functional extensionality. Classical reals now only have 3 axioms, which are all logical : LPO, funext and excluded middle of negations.

Classical reals are a quotient of constructive reals, which allows to easily port constructive theorems into classical real analysis.

This pull request also removes file ConstructiveRIneq, and exposes constructive Cauchy reals directly. It is fine for the classical part of the stdlib, because the ConstructiveReals interface is only meant to accelerate computations. Classical reals do not compute at all, because of the 3 axioms.

### CODE REVIEW

**Comment by VincentSe** [comment]
@silene In test Nsatz, line 443, the local variable R of type point is confused with the type R of real numbers. Do you know why this pull request triggered this ?

**Comment by VincentSe** [comment]
@silene Test `Compat88` also fails, on `Check Rdefinitions.Rplus 1 1.` This test only does `Require Coq.Reals.Rdefinitions.` and worked before. Now it seems we have to do `Require Import Coq.Reals.Rdefinitions.`. This is probably linked to
`Bind Scope R_scope with R.`
but I don't know how it interacts with Require and Require Import.

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst [hunk 1]
```diff
@@ -0,0 +1,9 @@
+- New module `Reals.ClassicalDedekindReals` defines Dedekind real numbers
+  as boolean-values functions along with 3 logical axioms : limited principle
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10827-dedekind-reals.rst]: English has different spacing rules.

```suggestion
  as boolean-values functions along with 3 logical axioms: limited principle
```

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst [hunk 2]
```diff
@@ -0,0 +1,9 @@
...
+  of omniscience and functional extensionality. The exposed type R in module
+  `Reals.Rdefinitions` is those Dedekind reals, hidden behind an opaque module.
+  Classical Dedekind reals are a quotient of constructive reals, which allows
+  to transport many constructive proofs to the classical case.
+
+  See `#10827 <https://github.com/coq/coq/pull/10827>`_, by Vincent Semeria,
+  with the help and review of Guillaume Melquiond and Bas Spitters.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10827-dedekind-reals.rst]: Are you anticipating on who is going to review your PR or is this a reflection of what happened at the WG? (I don't know since I wasn't there.)

**Review by Zimmi48 — COMMENTED** [review]
Regarding the changelog entry, note that if that makes sense, you could also edit your previous changelog entry `doc/changelog/10-standard-library/10445-constructive-reals.rst` and link to the two (or more) corresponding PRs.

**Comment by VincentSe** [comment]
@Zimmi48 We indeed discussed funext with @silene at  the working group in Nantes. He's the natural reviewer.

**Review by herbelin — COMMENTED** [review]
> Replace classical reals quotient axioms by the axiom of functional extensionality. Classical reals now only have 3 axioms, which are all logical : LPO, funext and excluded middle of negations.

1. This approach is interesting and looks good. I think that I would be interested though, for meta-theoretic purpose, to keep the quotient-based axiomatization in a side file, as a remembering of the alternative axiomatization.

2. As a side question, I wonder whether the reliance on axioms should not be explained differently, splitting the informative LPO into a propositional LPO and axiom of unique choice, and similarly for weak excluded-middle, since, the `Classical` part of the `Logic` standard library considers these classical axioms is their `Prop` version.

    Of course, `A + ~A` is an `hProp`, so, in the `Prop`-as-`hProp` view at things, EM in `+` is not different from EM in `\/`, but then, the conclusion seems to me that `Logic` should be updated to take into consideration that we now know several variants of `Prop` (`SProp`, `Prop`, `hProp`) and thus several strengths of excluded-middle. (Actually, I also suspect that unique choice on hSet would lead to consider an extra variant, say `Prop!`, strictly inbetween the current `Prop` and `hProp`: it would include any uniquely inhabited Sigma-type in hSet.)

    It is not fully clear yet what all variants of EM would look like but for instance `forall A:hProp, ~~A -> A` would imply `forall A:Prop, A + ~A` but `forall A:Prop, ~~A -> A` would not.

    Anyway, in the PR, the names are `sig_forall_dec` and `sig_not_dec`. So, these are discriminating names.

3. As another side question, it is surprising that weak classical logic arrives in two different flavors (one related to the decidability of equality and the other to completeness as far as I understood). Is there a unifying story for those or do we really need these two kinds of weak classical logic? Especially, how much to we need weak excluded-middle on arbitrary `Prop` in practice (compared to weak excluded-middle on, say, the fragment where all quantifications are relativized to real numbers)?

See otherwise suggestions for changes in isolated comments.

File: theories/Reals/ClassicalDedekindReals.v [hunk 3]
```diff
@@ -0,0 +1,525 @@
...
+  := forall (x y : X) (p q : x = y), p = q.
+
+Lemma forall_hprop : forall (A : Type) (P : A -> Prop),
+    (forall x:A, hProp (P x))
+    -> hProp (forall x:A, P x).
+Proof.
+  intros A P H p q. apply functional_extensionality_dep.
+  intro x. apply H.
+Qed.
+
```
[the remark this answers is not in the document]
Comment (Zimmi48) [reply theories/Reals/ClassicalDedekindReals.v]: > Eventually, we could then synchronize with Univalent Foundations and HoTT.

Isn't it better to do it earlier than later? (To avoid introducing a new definition with the same name but not exactly the same meaning?)

[the remark this answers is not in the document]
Comment (herbelin) [reply theories/Reals/ClassicalDedekindReals.v]: We can certainly do it early. I was only a bit afraid that discussing a proposal which both UF and HoTT find satisfactory for their purpose would take more time than first making our own proposal.

File: plugins/syntax/r_syntax.ml [hunk 4]
```diff
@@ -102,7 +102,7 @@ let bigint_of_z c = match DAst.get c with
 let rdefinitions = ["Coq";"Reals";"Rdefinitions"]
 let r_modpath = MPfile (make_dir rdefinitions)
 let r_base_modpath = MPdot (r_modpath, Label.make "RbaseSymbolsImpl")
-let r_path = make_path rdefinitions "R"
+let r_path = make_path ["Coq";"Reals";"Rdefinitions";"RbaseSymbolsImpl"] "R"
```
[the remark this answers is not in the document]
Comment (herbelin) [reply plugins/syntax/r_syntax.ml]: @VincentSe : This line may actually be related to the problems mentioned [here](https://github.com/coq/coq/pull/10827#issuecomment-538490837) and [here](https://github.com/coq/coq/pull/10827#issuecomment-538629350).

[the remark this answers is not in the document]
Comment (VincentSe) [reply plugins/syntax/r_syntax.ml]: No I did not implement a similar OCaml parser for constructive reals so far. Coq's syntax is streched pretty far here : opaque module type plus notations, it is not clear whether the problem is in this pull request, or in the parsers of Coq's kernel.

**Comment by VincentSe** [comment]
@herbelin Weak excluded middle was proved by the old axiomatization of the classical reals (with 17 axioms). So I do not think we can weaken it further (even by relativizing the quantifications to the real numbers). Maybe we could restrict excluded middle to the negated `hProp`s instead of the negated `Prop`s.

Funext is there to replace the quotient axioms, I could not find another way to do it. So at the moment, yes, we have 2 different weak classical logic axioms to define the classical reals. We can weaken funext to the functions `nat -> bool`, would it be useful ?

I'll correct you other remarks this week.

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (Zimmi48) [reply theories/Reals/ClassicalDedekindReals.v]: Well, I would try to at least satisfy HoTT *or* UF instead of just adding a third definition on top.

**Comment by herbelin** [comment]
> Weak excluded middle was proved by the old axiomatization of the classical reals (with 17 axioms), see file Rlogic. So I do not think we can weaken it further.

Right.

> Funext

That's fine like this. I just wanted to better understand the picture. Thanks.

File: test-suite/success/Compat88.v [hunk 5]
```diff
@@ -7,6 +7,7 @@ Require Coq.Reals.Rdefinitions.
 Require Coq.Numbers.Cyclic.Int63.Cyclic63.
 
 Require Import Coq.Compat.Coq88. (* XXX FIXME Should not need [Require], see https://github.com/coq/coq/issues/8311 *)
+Require Import Rdefinitions.
```
Comment (JasonGross) [inline test-suite/success/Compat88.v]: Please do not.  This file is *specifically* for testing that the notations here follow `Require` rather than `Import`.  Since this PR genuinely breaks compatibility with 8.10, you should either fix the compatibility breakage or update `theories/Compat/Coq810.v`.  I suspect you can fix the compatibility breakage by also adding `Bind Scope R_scope with R.` to `RbaseSymbolsSig` right after `Parameter R : Set.`.

**Review by JasonGross — DISMISSED** [review]

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (herbelin) [reply theories/Reals/ClassicalDedekindReals.v]: > Well, I would try to at least satisfy HoTT _or_ UF instead of just adding a third definition on top.

Interesting exercice...

Here is the definition of being an hProp in HoTT (with all its dependencies):
```
Class Contr_internal (A : Type) := BuildContr {    
  center : A ;                                                               
  contr : (forall y : A, center = y)   
}.     
Inductive trunc_index : Type :=                    
| minus_two : trunc_index                 
| trunc_S : trunc_index -> trunc_index.
Open Scope trunc_scope.      
Notation "n .+1" := (trunc_S n)
  (at level 2, left associativity, format "n .+1") : trunc_scope.                 
Notation "-2" := minus_two (at level 0) : trunc_scope.        
Fixpoint IsTrunc_internal (n : trunc_index) (A : Type) : Type :=            
Notation "-1" := (-2.+1) (at level 0) : trunc_scope.         
  match n with                                               
    | -2 => Contr_internal A       
    | n'.+1 => forall (x y : A), IsTrunc_internal n' (x = y)    
  end.              
Class IsTrunc (n : trunc_index) (A : Type) : Type :=         
  Trunc_is_trunc : IsTrunc_internal n A.
Notation IsHProp := (IsTrunc -1).
```

Here is the definition of being an hprop in UF (with all its dependencies):
```
Definition UU := Type.
Notation "'∏'  x .. y , P" := (forall x, .. (forall y, P) ..)          
  (at level 200, x binder, y binder, right associativity) : type_scope.   
Notation "'λ' x .. y , t" := (fun x => .. (fun y => t) ..)        
  (at level 200, x binder, y binder, right associativity).       
Notation "'∑'  x .. y , P" := (total2 (λ x, .. (total2 (λ y, P)) ..))        
  (at level 200, x binder, y binder, right associativity) : type_scope.    
Definition iscontr (T:UU) : UU := ∑ cntr:T, ∏ t:T, t=cntr.       
Fixpoint isofhlevel (n : nat) (X : UU) : UU      
  := match n with         
     | O => iscontr X              
     | S m => ∏ x : X, ∏ x' : X, (isofhlevel m (x = x'))    
     end.
Definition isaprop := isofhlevel 1.                                     
```

Here is the equivalent definition in the PR (should be renamed to `ishProp`, `IsHProp` or `isaprop`):
```
Definition hProp (P : Type) : Prop := forall p q : P, p = q.
```
Incidentally, the proof that the last definition is equivalent to the one in HoTT is theorem `equiv_hprop_allpath` in HoTT (I stopped after some while looking for the same theorem in UF).

Somehow, this is an example of generality vs simplicity. Both are relevant and should eventually be connected. For the standard library, I'd be tempted to provide the one-liner definition by default (and to make a connection with `IsTrunc -1`/`isofhlevel 1` in a more technical file).

Incidentally, this hints at the complexity of combining formal libraries. We need ways to go beyond the diversity of notations (maybe by providing menus in documents so that readers can choose what they prefer between `∏`, `forall`, `∀`, and the text automatically adjusts itself, etc.), beyond the multiplicity of definitions (maybe by doing like in the semantic web, by keeping under the hood a network of equivalent definitions and reasoning at the semantic level), etc.

File: test-suite/success/Compat88.v (hunk 5 above)
Comment (VincentSe) [reply test-suite/success/Compat88.v]: Hello. Adding `Bind Scope R_scope with R.` where you say in `RbaseSymbolsSig` does not work. Please advice a solution, or what to do exactly in file `theories/Compat/Coq810.v`, which is now empty.

Besides, I don't understand this test. In `Check Rdefinitions.Rplus 1 1.` you give the fully-qualified name of `Rplus` instead of its notation `+`, yet you expect the notation `1` to work. In what cases would you write such terms ?

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (VincentSe) [reply theories/Reals/ClassicalDedekindReals.v]: Note that this pull request makes heavy use of funext, to prove that negations are `hProp`s and that the stability of `hProp`s by for `forall` quantifier (lemmas `forall_hprop`, `impl_hprop` and `not_hprop`). I do not clearly see the value of exposing definitions of `hProp` and `hSet` in the stdlib, where funext is not always present.

File: test-suite/success/Compat88.v (hunk 5 above)
Comment (JasonGross) [reply test-suite/success/Compat88.v]: The fully qualified definition is supposed to have it's arguments automatically interpreted in `R_scope`; this is what `Bind Scope` is for.  You can add `Require Rdefinitions. Bind Scope R_scope with Rdefinitions.R` or whatever to `theories/Compat/Coq810.v`, but I'm a bit confused why scope binding does not work here... @herbelin Do you know what's going on?

**Comment by VincentSe** [comment]
@herbelin Concerning the meta-theoretical properties of `R`, I don't think there is much to remember. This pull request still defines classical reals as a quotient of constructive reals, because opaque module `RbaseSymbolsSig` exposes the same terms as before `R`, `Rabst`, `Rrepr`, `Rquot1` and `Rquot2`. The only difference is that those opaque terms are now implemented, instead of axioms.

File: test-suite/success/Compat88.v (hunk 5 above)
Comment (maximedenes) [reply test-suite/success/Compat88.v]: @JasonGross There are known issues with `Bind Scope`, eg https://github.com/coq/coq/issues/10212

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (Zimmi48) [reply theories/Reals/ClassicalDedekindReals.v]: @VincentSe But you are exposing them anyway and experience shows that people will use everything that is exposed whether it was the intent of the author of the library or not. So better think carefully at what is the definition and location of what is exposed rather than to dismiss it with some claim that it is not for general use.

File: test-suite/success/Compat88.v (hunk 5 above)
Comment (JasonGross) [reply test-suite/success/Compat88.v]: @VincentSe I tried it myself and it works fine.  That is, applying the following diff makes the test-suite file pass fine:
```diff
diff --git a/test-suite/success/Compat88.v b/test-suite/success/Compat88.v
index 822de5f..1233a4b 100644
--- a/test-suite/success/Compat88.v
+++ b/test-suite/success/Compat88.v
@@ -7,7 +7,6 @@ Require Coq.Reals.Rdefinitions.
 Require Coq.Numbers.Cyclic.Int63.Cyclic63.
 
 Require Import Coq.Compat.Coq88. (* XXX FIXME Should not need [Require], see https://github.com/coq/coq/issues/8311 *)
-Require Import Rdefinitions.
 
 Check String.String "a" String.EmptyString.
 Check String.eqb "a" "a".
diff --git a/theories/Reals/Rdefinitions.v b/theories/Reals/Rdefinitions.v
index b61e037..35025ba 100644
--- a/theories/Reals/Rdefinitions.v
+++ b/theories/Reals/Rdefinitions.v
@@ -34,6 +34,7 @@ Local Open Scope R_scope.
 (* Those symbols must be kept opaque, for backward compatibility. *)
 Module Type RbaseSymbolsSig.
   Parameter R : Set.
+  Bind Scope R_scope with R.
   Axiom Rabst : CReal -> R.
   Axiom Rrepr : R -> CReal.
   Axiom Rquot1 : forall x y:R, CRealEq (Rrepr x) (Rrepr y) -> x = y.
```

File: theories/Reals/ConstructiveReals.v [hunk 6]
```diff
@@ -52,10 +52,10 @@ Structure R := {
   The functions of ConstructiveReals do not have a direct impact
   on performance, because algorithms will be extracted from instances,
   and because fast ConstructiveReals morphisms should be coded
-  manually. However, since instances are forced to implement
-  those functions, it is probable that they will also use them
-  in their algorithms. So those functions hint at what we think
-  will yield fast and small extracted programs. *)
+  manually. However, because instances of forced to
```
[the remark this answers is not in the document]
Comment (VincentSe) [reply theories/Reals/ConstructiveReals.v]: done

File: theories/Reals/ClassicalDedekindReals.v [hunk 7]
```diff
@@ -0,0 +1,525 @@
...
+  intros P p q. apply functional_extensionality.
+  intros. contradiction.
+Qed.
+
+Definition eq_inv (X : Type) (x y : X) (p : x = y) : y = x
+  := eq_ind x (fun z:X => z = x) (eq_refl x) y p.
+
+Definition eq_comp (X : Type) (x y z : X) (p : x = y) (q : y = z) : x = z
+  := eq_ind y (fun t:X => x = t) p z q.
+
```
[the remark this answers is not in the document]
Comment (VincentSe) [reply theories/Reals/ClassicalDedekindReals.v]: deleted

File: test-suite/success/Compat88.v (hunk 5 above)
Comment (VincentSe) [reply test-suite/success/Compat88.v]: My apologies. Your fix does work and I just pushed it. I don't understand why it failed on my machine last time (it was the same diff I tried).

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (VincentSe) [reply theories/Reals/ClassicalDedekindReals.v]: I just split homotopy propositions and homotopy sets in a separate file HLevels.v, which assumes funext. The debate now becomes Logical. May Bishop, Dedekind and Brouwer have mercy on our souls.

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst (hunk 1 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: done

**Comment by VincentSe** [comment]
@Zimmi48 Do you know why the macOS build was cancelled ? Shall I restart the continuous integration or do we consider that it passed ?

**Comment by SkySkimmer** [comment]
It's not really cancelled, it's a timeout due to network issues while fetching Coq's source.

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst [hunk 8]
```diff
@@ -0,0 +1,9 @@
+- New module `Reals.ClassicalDedekindReals` defines Dedekind real numbers
+  as boolean-values functions along with 3 logical axioms: limited principle
+  of omniscience and functional extensionality. The exposed type R in module
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10827-dedekind-reals.rst]: Only two out of three axioms are listed here. That's confusing.

**Comment by herbelin** [comment]
@VincentSe :
> The only difference is that those opaque terms are now implemented, instead of axioms.

OK

File: theories/Reals/ClassicalDedekindReals.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (herbelin) [reply theories/Reals/ClassicalDedekindReals.v]: > I do not clearly see the value of exposing definitions of hProp and hSet in the stdlib, where funext is not always present.

Indeed, that's disputable. But on the other side, funext is so natural when talking about hlevels that I would not mind a files proving properties of hlevels requires funext. The file `HLevels` you made looks good to me.

**Comment by herbelin** [comment]
> In test Nsatz, line 443, the local variable R of type point is confused with the type R of real numbers. Do you know why this pull request triggered this ?

This seems to be a consequence of a "bug" in the naming mechanism for variables in goals. Variables are renamed to avoid constants of same name when in the same module, but the test fail to recognize that a constant in a submodule of a different file (like `R` in `RbaseSymbolsImpl` now) is actually in a different file.

More generally, this renaming policy is questionable, even when the constant is in the same module. I vaguely remember @maximedenes having tried to improve this in a PR, but I can't find it. In any case, we should fix the bug rather than changing `Nsatz`! I'm going to submit a PR.

**Comment by SkySkimmer** [comment]
See https://github.com/coq/coq/issues/9593

**Comment by herbelin** [comment]
@SkySkimmer : Ah, thanks a lot! Then, I still think we should do something about it to avoid the names in a document to differ from the names used interactively.

**Comment by VincentSe** [comment]
@herbelin Do you really have to merge https://github.com/coq/coq/pull/10924 before this pull request ? There are many letters in the alphabet, and even more strings, so that we do not force the compiler to resolve name collisions with scope rules. Besides, a test should be focused on one thing, so that we know where to look when it fails. Nsatz should test real analysis and therefore not name variables `R`. Then you can add another test, specifically for name resolutions.

**Comment by herbelin** [comment]
> Do you really have to merge #10924 before this pull request?

OK. Then just explain the exact cause of the change in Nsatz test in the log of the corresponding commit, so that it is clear that it is an unexpected side effect (possibly referring to #10924).

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst (hunk 2 above)
Comment (herbelin) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: @vincentse: isn't there still something to clarify here?

**Comment by herbelin** [comment]
@VincentSe: would you mind squashing/refactoring the commits (at best, to dispatch or merge the last two commits within the three first)?

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst (hunk 2 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: @herbelin Funext and Dedekind reals were first suggested by @spitters a few months ago. We then discussed it with @silene at the last working group in Nantes and he agreed.

Comment (herbelin) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: @VincentSe: Ah, ok, I see. Then there was apparently a misunderstanding on the word "review" which in the context of a PR tends to refer to "reviewed on GitHub" . So, a less ambiguous formulation could be "based on discussions with Bas Spitters and Guillaume Melquiond", or whatever similar fomulation reflecting well the situation. Sorry for the confusion.

Comment (Zimmi48) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: You could also credit Hugo for the review BTW :wink:

Comment (Zimmi48) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: You could also credit Hugo for the review BTW :wink:

Comment (VincentSe) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: done

**Comment by VincentSe** [comment]
@herbelin I just fixed the changelog, mentionning who discussed, and who discussed and reviewed. Is there something else to do ?

**Comment by herbelin** [comment]
As far as I was concerned, that was all to me. Thanks. (And let me clarify that my "review" remained at a rather global level.)

Is then everything ok with everyone? If so, I'll merge on Thursday

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst [hunk 9]
```diff
@@ -0,0 +1,11 @@
+- New module `Reals.ClassicalDedekindReals` defines Dedekind real numbers
+  as boolean-values functions along with 3 logical axioms: limited principle
+  of omniscience, excluded middle of negations and functional extensionality.
+  The exposed type R in module `Reals.Rdefinitions` is those Dedekind reals,
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10827-dedekind-reals.rst]: Not critical:

```suggestion
  The exposed type :g:`R` in module :g:`Reals.Rdefinitions` is those Dedekind reals,
```

**Comment by Zimmi48** [comment]
Fixed milestone, which was wrong: as long as the 8.11+beta1 milestone is open, nothing should get merged into 8.10.0. Furthermore, this PR being of the kind that does not get backported if it missed the release cutoff, the 8.10.0 is even less appropriate (should be reserved for bug fixes and documentation improvements).

**Comment by VincentSe** [comment]
@Zimmi48 Changelog re-re-fixed

File: doc/changelog/10-standard-library/10827-dedekind-reals.rst (hunk 9 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10827-dedekind-reals.rst]: done

**Comment by VincentSe** [comment]
Hi @herbelin, can you merge now ? Thursday is passed and I'd like to rebase my other PR about constructive measure theory on top of this one.

**Comment by herbelin** [comment]
Sorry, I should have written earlier. This seems now stable and shall merge in the day.
